### PR TITLE
[Merged by Bors] - chore(Data/Set/Pointwise): golf

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 1]
```diff
@@ -1311,13 +1311,9 @@ theorem preimage_mul_preimage_subset {s t : Set β} : m ⁻¹' s * m ⁻¹' t 
...
-    m ⁻¹' (s * t) = m ⁻¹' s * m ⁻¹' t := by
-  refine subset_antisymm ?_ (preimage_mul_preimage_subset m)
-  rintro a ⟨b, c, hb, hc, ha⟩
-  obtain ⟨b, rfl⟩ := hs hb
-  obtain ⟨c, rfl⟩ := ht hc
-  simp only [← map_mul, hm.eq_iff] at ha
-  exact ⟨b, c, hb, hc, ha⟩
+    m ⁻¹' (s * t) = m ⁻¹' s * m ⁻¹' t := hm.image_injective <| by
+  rw [image_mul, image_preimage_eq_iff.2 hs, image_preimage_eq_iff.2 ht,
+    image_preimage_eq_iff.2 (mul_subset_range m hs ht)]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Basic.lean:1316]: I think I'd prefer this formatted as
```suggestion
    m ⁻¹' (s * t) = m ⁻¹' s * m ⁻¹' t :=
  hm.image_injective <| by
    rw [image_mul, image_preimage_eq_iff.2 hs, image_preimage_eq_iff.2 ht,
      image_preimage_eq_iff.2 (mul_subset_range m hs ht)]
```
as otherwise it's easy to miss what's going on in the proof.

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 2]
```diff
@@ -1347,23 +1343,16 @@ theorem preimage_div_preimage_subset {s t : Set β} : m ⁻¹' s / m ⁻¹' t 
...
 end Group
 
 @[to_additive]
-theorem bddAbove_mul [OrderedCommMonoid α] {A B : Set α} :
-    BddAbove A → BddAbove B → BddAbove (A * B) := by
-  rintro ⟨bA, hbA⟩ ⟨bB, hbB⟩
-  use bA * bB
-  rintro x ⟨xa, xb, hxa, hxb, rfl⟩
-  exact mul_le_mul' (hbA hxa) (hbB hxb)
+theorem bddAbove_mul [OrderedCommMonoid α] {A B : Set α} (hA : BddAbove A) (hB : BddAbove B) :
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Basic.lean:1353]: Should this be
```suggestion
theorem BddAbove.mul [OrderedCommMonoid α] {A B : Set α} (hA : BddAbove A) (hB : BddAbove B) :
```
for dot notation? Or is that out of scope for this PR?

File: Mathlib/Data/Set/Pointwise/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Pointwise/Basic.lean:1316]: (and below)

**Review by eric-wieser — COMMENTED** [review]
My slight fear in these proofs golfed by avoiding low-level logic is that they risk making generalization harder in future (eg `Injective` to `Set.InjOn`). Maybe no such generalization is possible here; but the old proof made it easier to check.

The `obtain`-based proofs seem to be the general approach in the file.

I'll let @YaelDillies decide if this looks like an improvement

bors d=@YaelDillies

File: Mathlib/Data/Set/Pointwise/Basic.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Data/Set/Pointwise/Basic.lean]: Done.

**Review by YaelDillies — APPROVED** [review]
I agree it will make the lemmas harder to generalise, but I highly doubt we'll ever care about the generalisation, so I'm calling that an improvement.

bors merge
